US08686022B2
5-tert-butyl-3-methanesulphinyl-2-methoxy-phenylamine
15.5 g 5-tert-butyl-1-methanesulphinyl-2-methoxy-3-nitro-benzene in 300 ml of ethyl acetate are added 3.0 g 10% palladium-(II)-hydroxide on charcoal and the mixture is hydrogenated for 16 hours at 3 bar hydrogen pressure. Then the hydrogenation catalyst is filtered off through kieselguhr and washed with 100 ml of ethyl acetate. The solvent is eliminated in vacuo and the residue is extracted from n-pentane.

reactant | 5-tert-butyl-1-methanesulphinyl-2-methoxy-3-nitro-benzene | 15.5 g | C(C)(C)(C)C=1C=C(C(=C(C1)S(=O)C)OC)[N+](=O)[O-] | C12H17NO4S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-(II)-hydroxide | 3.0 g | [OH-].[Pd+2].[OH-]
product | 5-tert-butyl-3-methanesulphinyl-2-methoxy-phenylamine | C(C)(C)(C)C=1C=C(C(=C(C1)N)OC)S(=O)C | C12H19NO2S
